Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ w/ hx of severe gastritis ___ s/p Csec on ___ who was 
dc-ed yesterday from the OB-GYN yesterday. Pt complaining of 
epigastric abdominal pain and pain at her incision site. Patient 
denies any fevers or chills. She says this epigastric pain is 
similar to her prior reflux pain. She did have some reflux pain 
before being discharged from the start checks service yesterday, 
but it has worsened greatly at home. She states she has been 
taking her reflux medication. She endorses one episode of 
nonbloody emesis this morning and some nausea. She states she 
has had pain at her incision site. Has not noted any drainage or 
redness at the site. She denies any chest pain, shortness of 
breath or cough. She denies any changes in her bowel or bladder 
habits. She does note that she has had some vaginal spotting, 
this is an improved greatly since discharge from the obstetric 
service.

The patient had an EGD in ___ at which point which she 
was noted to have severe gastritis with bleeding even on 
slightest touch.  

Initial ED vitals were pain ___ 100 140/80 18 100% 
Rebreather (though was transitioned to room air shortly 
thereafter). Labs were significant for Hct of 26.5, up from 24.3 
on ___, wbc of 11.7, down from 16.6 on ___, slightly up 
alk phos (123) but otherwise down trending alt/ast from prior 
and normal lipase/t bili/albumin. The patient recieved a CXR PA 
LAT that was unremarkable and didnt show any free air, and an 
RUQ u/s which showed some sludge but no evidence of acute 
cholecystitis. She received  IV zofran, morphine and PPI. She 
was transferred to medicine for further mx.  

On arrival to the floor, patient report was quite uncomfortable. 
Impreoved with IV zofran and IV dialudid.  
 
Past Medical History:
- Severe gastritis
  - ___ neg  
  - ___ GI consult
  - ___ US: GB sludge, no cholecystitis or gallstones  
  - ___ abd/pelvis: no pathology  
  - ___ -> c/w severe gastritis; nl biopsies
- Psych: panic/anxiety/depression. seen by psychiatry during 
admissions, recommended klonopin (longer acting than ativan) and
SSRI with Haldol PRN. Diagnosed with adjustment doirsorder w/ 
anxiety. 

PSH: SAB X 2 requiring D&C 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION:
VS  - 99.8 150/92 70 20 100 ra
GEN Alert, oriented, moving around in bed in apparent distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g,   
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

DISCHARGE:
VS - 99.3 134/82 97 20 100 ra
GEN Alert, oriented, withdrawn and not engaging in interview 
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g,   
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions 

 
Pertinent Results:
ADMISSION:
___ 08:15AM BLOOD WBC-11.7* RBC-3.04* Hgb-8.7* Hct-26.5* 
MCV-87 MCH-28.6 MCHC-32.8 RDW-14.4 Plt ___
___ 08:15AM BLOOD Neuts-77.8* Lymphs-15.1* Monos-5.2 
Eos-1.8 Baso-0.1
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-114* UreaN-6 Creat-0.8 Na-143 
K-3.6 Cl-107 HCO3-20* AnGap-20
___ 08:15AM BLOOD ALT-20 AST-18 AlkPhos-123* TotBili-0.6
___ 08:15AM BLOOD Lipase-49
___ 08:15AM BLOOD Albumin-3.9
___ 06:35PM BLOOD Lactate-0.6
___ 09:45AM URINE Color-Straw Appear-Clear Sp ___
___ 09:45AM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG
___ 09:45AM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 09:45AM URINE Mucous-RARE

DISCHARGE:
___ 06:20AM BLOOD WBC-12.4* RBC-2.97* Hgb-8.4* Hct-25.9* 
MCV-87 MCH-28.4 MCHC-32.5 RDW-14.6 Plt ___
___ 06:20AM BLOOD Glucose-86 UreaN-5* Creat-0.6 Na-137 
K-3.3 Cl-103 HCO3-20* AnGap-17
___ 06:20AM BLOOD Calcium-8.9 Phos-4.1 Mg-1.7

CXR PA LAT: No evidence for acute disease.

CT AB PELVIS W/ CONTRAST:
1.  Findings consistent with recent postpartum status.  
Increased enhancement along the anterior  uterine endometrium 
likely represents the site of placental attachment.   
2.  No other acute abdominal pathology. 

RUQ U/S: Gallbladder sludge without specific features to suggest 
acute 
cholecystitis. 

 
Brief Hospital Course:
___ s/p C-Section on ___, hx of severe gastritis who 
presented to ED 1 day after dc from OB-GYN with abdominal pain. 
Pt got better after one day of clear liquids and was dc-ed home 
in a stable condition. 

# Abdominal Pain: Pt has a long hx of severe gastritis with 
several prior admissions. Has gotten extensive workup in the 
past that was +ve for severe gastritis diagnosed on EGD in ___. 
However, biopsy was normal. Patient's pain was adequately 
controlled after discharge on day before admission. Per 
patient's hx and exam, c/w prior gastritis. Patient also 
underwent very recent C-Section. However was evaluated by OB-GYN 
who felt the wound was doing well from a surgical perspective 
and that this was due to patient's prior gastritis. Pt had a 
CXR, RUQ u/s and CT abd-pel all unremarkable. Needed zofran, 
oxycodone overnight. Pt tolerated clears and was dc-ed home on 
all home meds and a script for zofran. 

# Adjustment disorder w/anxiety: Patient has a hx of depression, 
anxiety and panic attacks. We held home citalopram and gave po 
ativan prn for now. She was advised to collect her clonazepam 
refills from her pharmacy.

TRANSITIONAL ISSUES:
- NEEDS PCP AND POSSIBLY ___ PSYCH FOLLOWUP
- GI FOLLOW UP MAY BE NEEDED TO TITRATE GASTRITIS MEDS

 
Medications on Admission:
1. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 

Refills:*1
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*2
3. Labetalol 200 mg PO BID 
hold for BP < 110/60, HR < 60 
RX *labetalol 200 mg 1 tablet(s) by mouth twice a day Disp #*84 
Tablet Refills:*0
4. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
5. Famotidine 40 mg PO DAILY 
RX *famotidine 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 

Refills:*2
6. ValACYclovir 500 mg PO Q24H 
RX *valacyclovir 500 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*1
7. Bismuth Subsalicylate ___ mL PO TID:PRN upset stomach 
Over the counter available as PeptoBismol 
RX *Pepto-Bismol 262 mg/15 mL ___ mL by mouth three times a 
day Disp #*1 Bottle Refills:*2
8. Sucralfate 1 gm PO QID 
RX *Carafate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*3
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*50 Tablet 

Refills:*0
10. Acetaminophen ___ mg PO Q6H:PRN [ain 
 
Discharge Medications:
1. Bismuth Subsalicylate ___ mL PO TID stomach upset 
2. Citalopram 20 mg PO DAILY 
3. Famotidine 40 mg PO DAILY 
4. Labetalol 200 mg PO BID 
5. Pantoprazole 40 mg PO Q12H 
6. Sucralfate 1 gm PO QID 
7. Clonazepam 0.25-0.5 mg PO BID 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ZOFRAN ODT 4 mg 1 tablet(s) by mouth Q8 Disp #*15 Tablet 
Refills:*0
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN PAIN 
10. Acetaminophen ___ mg PO Q6H:PRN PAIN 
11. ValACYclovir 500 mg PO Q24H 
12. Docusate Sodium 100 mg PO BID CONSTIPATION 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GASTRITIS
S/P C-SECTION
ANXIETY
ADJUSTMENT DISORDER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to ___ after you recent c-section with 
recurrence of your abdominal pain. Based on a thorough workup, 
including ultrasound, xray and ct scan, we could identify no new 
cause of the pain, which is likely due to your gastritis. You 
were dsicharged back home on a clear liquid diet. 
 
Followup Instructions:
___